US06977263B2
D. 3-[1-(6-Chloroquinoline-3-carbonyl)-piperidin-4-yl]-benzylamine
N,N-bis-(tert-butoxycarbonyl)-3-[1-(6-Chloroquinoline-3-carbonyl)-piperidin-4-yl]benzylamine (0.055 g, 0.095 mmol) was treated with a solution of 15% trifluoroacetic acid in methylene chloride (5 ml) at 0° C. The reaction was warmed to ambient temperature over 2.5 hr and the solvents were removed in vacuo. The residue was triturated with ether to yield the title compound (0.033 g, 0.087 mmol) as an amorphous solid. 1H NMR[(CD3)2SO, 500 MHz]: δ 8.95 (s, 1H), 8.44 (s, 1H), 8.20 (s, 1H), 8.07 (d, 1H), 7.84 (d, 2H), 7.23-7.40 (m, 4H), 4.67 (m, 1H), 7.34 (m, 3H), 4.75 (br m, 1H), 4.05 (m, 2H), 3.75 (br m, 1H), 3.30 (br m, 1H), 2.80-3.00 (br m, 2H), 1.90 (br m, 1H), 1.6-1.8 (br m, 3H). MS(EI): 380(M++H).

reactant | N,N-bis-(tert-butoxycarbonyl)-3-[1-(6-Chloroquinoline-3-carbonyl)-piperidin-4-yl]benzylamine | 0.095 mmol, 0.055 g | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)CC1=CC(=CC=C1)C1CCN(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1)Cl | C32H38ClN3O5
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 3-[1-(6-Chloroquinoline-3-carbonyl)-piperidin-4-yl]-benzylamine | 0.087 mmol, 0.033 g | ClC=1C=C2C=C(C=NC2=CC1)C(=O)N1CCC(CC1)C=1C=C(CN)C=CC1 | C22H22ClN3O
